US08802864B2
5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-4-(4′-fluoro-3-methyl-4-biphenylyl)-2,4-dihydro-3H-1,2,4-triazol-3-one
A microwave vial was charged with 4-(4-bromo-2-methylphenyl)-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one (60.0 mg, 0.148 mmol), (4-fluorophenyl)boronic acid (20.71 mg, 0.148 mmol), PdCl2(dppf) (5.42 mg, 7.40 μmol), K2CO3 (51.2 mg, 0.370 mmol), 1,4-dioxane (3 mL) and water (1 mL). The reaction was purged with nitrogen, sealed and heated in a microwave reactor at 150° C. for 30 min. The reaction mixture was concentrated under reduced pressure and the residue was dissolved in DMSO, filtered through a syringe filter and purified by reverse phase HPLC (Gilson, YMC-Pack ODS-A C18 5 μm 75×30 mm column, 10-90% MeCN/water+0.1% TFA, 2×1 mL injections). The appropriate fractions were concentrated to remove a majority of the MeCN. The remaining aqueous mixture (product had oiled out) was extracted with two portions of dichloromethane. The combined dichloromethane layers were dried over Na2SO4, filtered, concentrated under reduced pressure and dried to constant weight under vacuum to provide the title product (36 mg, 0.086 mmol, 57.8% yield) as a yellow solid. MS(ES)+ m/e 421.1 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ ppm 11.75 (d, J=4.04 Hz, 1H), 7.75-7.86 (m, 2H), 7.73 (br. s., 1H), 7.58-7.66 (m, 1H), 7.42 (td, J=8.34, 4.29 Hz, 1H), 7.33 (t, J=8.84 Hz, 2H), 3.59-3.88 (m, 1H), 3.46-3.59 (m, 1H), 2.82-3.38 (m, 2H), 2.28-2.49 (m, 3H), 2.12-2.20 (m, 3H), 1.87-2.07 (m, 1H), 1.39-1.76 (m, 2H), 0.59-0.76 (m, 4H).

reactant | 4-(4-bromo-2-methylphenyl)-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one | 0.148 mmol, 60.0 mg | BrC1=CC(=C(C=C1)N1C(NN=C1C[C@H]1CN(CC1)C(=O)C1CC1)=O)C | C18H21BrN4O2
reactant | (4-fluorophenyl)boronic acid | 0.148 mmol, 20.71 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | K2CO3 | 0.370 mmol, 51.2 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 7.40 μmol, 5.42 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 1 mL | O | H2O
product | 5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-4-(4′-fluoro-3-methyl-4-biphenylyl)-2,4-dihydro-3H-1,2,4-triazol-3-one | 0.086 mmol, 36 mg, 57.8% yield | C1(CC1)C(=O)N1C[C@@H](CC1)CC=1N(C(NN1)=O)C1=C(C=C(C=C1)C1=CC=C(C=C1)F)C | C24H25FN4O2
